US07105671B2
A mixture of 5-methylpyrazine-2-carboxylic acid (2.76 g, 20 mmol) and oxalyl chloride (1.83 mL, 2.66 g, 21 mmol) in methylene chloride (40 mL) was treated with N,N-dimethylformamide (0.5 mL), and the mixture was stirred at 25° C. for 1 h. The mixture was filtered, and the filtrate was concentrated in vacuo to give an oily solid. The solid was dissolved in acetone (120 mL) at 0° C. and then sodium azide (1.03g, 20 mmol) in water (50 mL) was added dropwise. After the addition was complete, stirring was continued at 0° C. for 30 min. The mixture was then poured into ice cold water (100 mL) and extracted with methylene chloride (3×100 mL). The combined organic extracts were washed with water (1×100 mL), a mixture of a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution (1:1, 1×100 mL), and dried over anhydrous sodium sulfate. The mixture was filtered and concentrated in vacuo to give 5-methyl-pyrazine-2-carbonyl azide (1.46 g, 45%) as a tan solid. The 5-methyl-pyrazine-2-carbonyl azide (500 mg, 3.07 mmol) was combined with benzyl alcohol (0.63 mL, 663 mg, 6.14 mmol) at 25° C. The mixture was then slowly heated on an oil bath to 90° C., upon which gas was violently evolved. The oil bath temperature was maintained until gas evolution ceased. The oil bath temperature was raised to 120° C. and stirring was continued for 10 min at that temperature. The mixture was cooled and triturated with diethyl ether/hexanes (1:4) to give (5-methylpyrazin-2-yl)-carbamic acid phenyl ester (438 mg, 58%) as a yellow solid. The (5-methylpyrazin-2-yl)-carbamic acid phenyl ester (500 mg, 2.2 mmol) and 10% palladium on carbon (212 mg) were mixed in ethanol (30 mL). The reaction vessel was flushed with hydrogen, and the mixture was stirred at 25° C. for 1 h under hydrogen (1 atm). The excess hydrogen was evacuated from the reaction vessel, and the mixture was filtered through a pad of celite. Concentration of the filtrate in vacuo gave 2-amino-5-methylpyrazine (183 mg, 76%) as a tan solid which was used without further purification.

reactant | 5-methylpyrazine-2-carboxylic acid | 20 mmol, 2.76 g | CC=1N=CC(=NC1)C(=O)O | C6H6N2O2
reactant | oxalyl chloride | 21 mmol, 1.83 mL, 2.66 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | sodium azide | 20 mmol, 1.03g | [N-]=[N+]=[N-].[Na+]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | acetone | 120 mL | CC(=O)C | C3H6O
solvent | water | 50 mL | O | H2O
product | 5-methyl-pyrazine-2-carbonyl azide | 1.46 g, 45% | CC=1N=CC(=NC1)C(=O)N=[N+]=[N-] | C6H5N5O
